************************************************************************
* auCdl Netlist:
* 
* Library Name:  VEDANT
* Top Cell Name: 6TSRAM
* View Name:     schematic
* Netlisted on:  Jun 12 19:39:14 2026
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM

*.GLOBAL gnd!

*.PIN gnd!

************************************************************************
* Library Name: VEDANT
* Cell Name:    6TSRAM
* View Name:    schematic
************************************************************************

.SUBCKT 6TSRAM BL BLB VDD VSS WL Q QB VIN
*.PININFO BL:B BLB:B Q:B QB:B VDD:B VIN:B VSS:B WL:B
MM5 QB VIN VDD VDD P W=0.22 L=0.18 m=1
MM1 Q VIN VDD VDD P W=0.22 L=0.18 m=1
MM4 BLB WL QB VSS N W=0.22 L=0.18 m=1
MM0 Q VIN VSS VSS N W=0.44 L=0.18 m=1
MM3 Q WL BL VSS N W=0.22 L=0.18 m=1
MM2 QB VIN VSS VSS N W=0.44 L=0.18 m=1
.ENDS

