************************************************************************
* auCdl Netlist:
* 
* Library Name:  VEDANT_NEW
* Top Cell Name: 6TSRAM_ARRAY
* View Name:     schematic
* Netlisted on:  Jul 20 03:12:09 2026
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: VEDANT_NEW
* Cell Name:    Diff_Sense_Amp
* View Name:    schematic
************************************************************************

.SUBCKT Diff_Sense_Amp BL BLB SE VDD VOUT VSS
*.PININFO VOUT:O BL:B BLB:B SE:B VDD:B VSS:B
MM6 net1 net1 VDD VDD P W=0.42 L=0.18 m=1
MM0 VOUT net1 VDD VDD P W=0.42 L=0.18 m=1
MM4 net2 SE VSS VSS N W=0.42 L=0.18 m=1
MM3 VOUT BLB net2 VSS N W=0.42 L=0.18 m=1
MM2 net1 BL net2 VSS N W=0.42 L=0.18 m=1
.ENDS

************************************************************************
* Library Name: CMOS_inv
* Cell Name:    CMOS_inv
* View Name:    schematic
************************************************************************

.SUBCKT CMOS_inv out vdd vin vss
*.PININFO vdd:I vin:I vss:I out:O
MM0 out vin vdd vdd P W=0.42 L=0.18 m=1
MM1 out vin vss vss N W=0.42 L=0.18 m=1
.ENDS

************************************************************************
* Library Name: VEDANT_NEW
* Cell Name:    Column_Mux
* View Name:    schematic
************************************************************************

.SUBCKT Column_Mux BL BLB SA_BL SA_BLB VDD VSS WD_BL WD_BLB YSR
*.PININFO VDD:I VSS:I YSR:I SA_BL:O SA_BLB:O BL:B BLB:B WD_BL:B WD_BLB:B
MM3 WD_BLB YSR_BAR BLB VDD P W=0.42 L=0.18 m=1
MM2 SA_BL YSR BL VDD P W=0.42 L=0.18 m=1
MM1 WD_BL YSR_BAR BL VDD P W=0.42 L=0.18 m=1
MM0 SA_BLB YSR BLB VDD P W=0.42 L=0.18 m=1
MM7 BLB YSR WD_BLB VSS N W=0.42 L=0.18 m=1
MM6 BL YSR_BAR SA_BL VSS N W=0.42 L=0.18 m=1
MM5 BL YSR WD_BL VSS N W=0.42 L=0.18 m=1
MM4 BLB YSR_BAR SA_BLB VSS N W=0.42 L=0.18 m=1
XI0 YSR_BAR VDD YSR VSS / CMOS_inv
.ENDS

************************************************************************
* Library Name: VEDANT_NEW
* Cell Name:    SRAM
* View Name:    schematic
************************************************************************

.SUBCKT SRAM BL BLB VDD VSS WL
*.PININFO BL:B BLB:B VDD:B VSS:B WL:B
MM5 BLB WL net2 VSS N W=0.22 L=0.18 m=1
MM4 net1 WL BL VSS N W=0.22 L=0.18 m=1
MM2 net1 net2 VSS VSS N W=0.44 L=0.18 m=1
MM7 net2 net1 VSS VSS N W=0.44 L=0.18 m=1
MM3 net1 net2 VDD VDD P W=0.22 L=0.18 m=1
MM0 net2 net1 VDD VDD P W=0.22 L=0.18 m=1
.ENDS

************************************************************************
* Library Name: VEDANT_NEW
* Cell Name:    Pre_charge_CKT
* View Name:    schematic
************************************************************************

.SUBCKT Pre_charge_CKT BL BLB PRE VDD VSS
*.PININFO VDD:I VSS:I BL:B BLB:B PRE:B
XI0 net1 VDD PRE VSS / CMOS_inv
MM2 BL net1 VDD VDD P W=0.42 L=0.18 m=1
MM1 BLB net1 VDD VDD P W=0.42 L=0.18 m=1
MM0 BL net1 BLB VDD P W=0.42 L=0.18 m=1
.ENDS

************************************************************************
* Library Name: VEDANT_NEW
* Cell Name:    NAND_3IP
* View Name:    schematic
************************************************************************

.SUBCKT NAND_3IP A B C VDD VSS Y
*.PININFO A:I B:I C:I Y:O VDD:B VSS:B
MM4 Y A VDD VDD P W=0.42 L=0.18 m=1
MM1 Y B VDD VDD P W=0.42 L=0.18 m=1
MM0 Y C VDD VDD P W=0.42 L=0.18 m=1
MM5 net2 C VSS VSS N W=0.42 L=0.18 m=1
MM3 net6 B net2 VSS N W=0.42 L=0.18 m=1
MM2 Y A net6 VSS N W=0.42 L=0.18 m=1
.ENDS

************************************************************************
* Library Name: VEDANT_NEW
* Cell Name:    Decoder_3X8
* View Name:    schematic
************************************************************************

.SUBCKT Decoder_3X8 A B C VDD VSS Y0 Y1 Y2 Y3 Y4 Y5 Y6 Y7
*.PININFO A:I B:I C:I Y0:O Y1:O Y2:O Y3:O Y4:O Y5:O Y6:O Y7:O VDD:B VSS:B
XI19 Y7 VDD net9 VSS / CMOS_inv
XI18 Y0 VDD net7 VSS / CMOS_inv
XI17 Y6 VDD net10 VSS / CMOS_inv
XI16 Y5 VDD net8 VSS / CMOS_inv
XI15 Y4 VDD net11 VSS / CMOS_inv
XI14 Y3 VDD net2 VSS / CMOS_inv
XI13 Y2 VDD net3 VSS / CMOS_inv
XI12 Y1 VDD net4 VSS / CMOS_inv
XI10 net1 VDD A VSS / CMOS_inv
XI9 net6 VDD C VSS / CMOS_inv
XI8 net5 VDD B VSS / CMOS_inv
XI7 A B C VDD VSS net9 / NAND_3IP
XI6 A B net6 VDD VSS net10 / NAND_3IP
XI5 A net5 C VDD VSS net8 / NAND_3IP
XI4 A net5 net6 VDD VSS net11 / NAND_3IP
XI3 net1 B C VDD VSS net2 / NAND_3IP
XI2 net1 B net6 VDD VSS net3 / NAND_3IP
XI1 net1 net5 C VDD VSS net4 / NAND_3IP
XI0 net1 net5 net6 VDD VSS net7 / NAND_3IP
.ENDS

************************************************************************
* Library Name: VEDANT_NEW
* Cell Name:    Write_Driver
* View Name:    schematic
************************************************************************

.SUBCKT Write_Driver BL BLB DIN VDD VSS
*.PININFO DIN:I VDD:I VSS:I BL:O BLB:O
XI3 net1 VDD DIN VSS / CMOS_inv
XI1 BLB VDD DIN VSS / CMOS_inv
XI0 BL VDD net1 VSS / CMOS_inv
.ENDS

************************************************************************
* Library Name: VEDANT_NEW
* Cell Name:    6TSRAM_ARRAY
* View Name:    schematic
************************************************************************

.SUBCKT 6TSRAM_ARRAY A B BL0 BL1 BL2 BL3 BL4 BL5 BL6 BL7 BLB0 BLB1 BLB2 BLB3 
+ BLB4 BLB5 BLB6 BLB7 C D0 D1 D2 D3 D4 D5 D6 D7 EN OUT0 OUT1 OUT2 OUT3 OUT4 
+ OUT5 OUT6 OUT7 PRE SE VDD VSS WL0 WL1 WL2 WL3 WL4 WL5 WL6 WL7 YSR
*.PININFO A:B B:B BL0:B BL1:B BL2:B BL3:B BL4:B BL5:B BL6:B BL7:B BLB0:B 
*.PININFO BLB1:B BLB2:B BLB3:B BLB4:B BLB5:B BLB6:B BLB7:B C:B D0:B D1:B D2:B 
*.PININFO D3:B D4:B D5:B D6:B D7:B EN:B OUT0:B OUT1:B OUT2:B OUT3:B OUT4:B 
*.PININFO OUT5:B OUT6:B OUT7:B PRE:B SE:B VDD:B VSS:B WL0:B WL1:B WL2:B WL3:B 
*.PININFO WL4:B WL5:B WL6:B WL7:B YSR:B
XI241 net31 net32 SE VDD OUT7 VSS / Diff_Sense_Amp
XI240 net27 net28 SE VDD OUT6 VSS / Diff_Sense_Amp
XI237 net23 net24 SE VDD OUT5 VSS / Diff_Sense_Amp
XI236 net19 net20 SE VDD OUT4 VSS / Diff_Sense_Amp
XI233 net15 net16 SE VDD OUT3 VSS / Diff_Sense_Amp
XI232 net11 net12 SE VDD OUT2 VSS / Diff_Sense_Amp
XI229 net7 net8 SE VDD OUT1 VSS / Diff_Sense_Amp
XI227 net3 net4 SE VDD OUT0 VSS / Diff_Sense_Amp
XI226 BL7 BLB7 net31 net32 VDD VSS net30 net29 YSR / Column_Mux
XI225 BL6 BLB6 net27 net28 VDD VSS net26 net25 YSR / Column_Mux
XI224 BL5 BLB5 net23 net24 VDD VSS net22 net21 YSR / Column_Mux
XI223 BL4 BLB4 net19 net20 VDD VSS net18 net17 YSR / Column_Mux
XI222 BL3 BLB3 net15 net16 VDD VSS net14 net13 YSR / Column_Mux
XI221 BL2 BLB2 net11 net12 VDD VSS net10 net9 YSR / Column_Mux
XI220 BL1 BLB1 net7 net8 VDD VSS net6 net5 YSR / Column_Mux
XI219 BL0 BLB0 net3 net4 VDD VSS net2 net1 YSR / Column_Mux
XI122 BL0 BLB0 VDD VSS WL0 / SRAM
XI203 BL3 BLB3 VDD VSS WL2 / SRAM
XI154 BL4 BLB4 VDD VSS WL2 / SRAM
XI131 BL4 BLB4 VDD VSS WL0 / SRAM
XI146 BL4 BLB4 VDD VSS WL3 / SRAM
XI192 BL7 BLB7 VDD VSS WL3 / SRAM
XI129 BL6 BLB6 VDD VSS WL0 / SRAM
XI167 BL0 BLB0 VDD VSS WL6 / SRAM
XI166 BL5 BLB5 VDD VSS WL4 / SRAM
XI197 BL3 BLB3 VDD VSS WL6 / SRAM
XI164 BL0 BLB0 VDD VSS WL7 / SRAM
XI139 BL0 BLB0 VDD VSS WL1 / SRAM
XI136 BL6 BLB6 VDD VSS WL1 / SRAM
XI141 BL2 BLB2 VDD VSS WL2 / SRAM
XI191 BL7 BLB7 VDD VSS WL6 / SRAM
XI135 BL5 BLB5 VDD VSS WL1 / SRAM
XI143 BL5 BLB5 VDD VSS WL2 / SRAM
XI156 BL1 BLB1 VDD VSS WL4 / SRAM
XI144 BL1 BLB1 VDD VSS WL3 / SRAM
XI140 BL1 BLB1 VDD VSS WL2 / SRAM
XI138 BL4 BLB4 VDD VSS WL1 / SRAM
XI133 BL2 BLB2 VDD VSS WL1 / SRAM
XI132 BL1 BLB1 VDD VSS WL1 / SRAM
XI155 BL0 BLB0 VDD VSS WL2 / SRAM
XI157 BL2 BLB2 VDD VSS WL4 / SRAM
XI174 BL5 BLB5 VDD VSS WL6 / SRAM
XI195 BL7 BLB7 VDD VSS WL0 / SRAM
XI128 BL5 BLB5 VDD VSS WL0 / SRAM
XI173 BL1 BLB1 VDD VSS WL7 / SRAM
XI172 BL1 BLB1 VDD VSS WL6 / SRAM
XI170 BL4 BLB4 VDD VSS WL5 / SRAM
XI169 BL2 BLB2 VDD VSS WL5 / SRAM
XI168 BL1 BLB1 VDD VSS WL5 / SRAM
XI151 BL0 BLB0 VDD VSS WL3 / SRAM
XI190 BL7 BLB7 VDD VSS WL7 / SRAM
XI152 BL6 BLB6 VDD VSS WL2 / SRAM
XI145 BL2 BLB2 VDD VSS WL3 / SRAM
XI148 BL5 BLB5 VDD VSS WL3 / SRAM
XI150 BL6 BLB6 VDD VSS WL3 / SRAM
XI196 BL3 BLB3 VDD VSS WL0 / SRAM
XI162 BL6 BLB6 VDD VSS WL6 / SRAM
XI160 BL5 BLB5 VDD VSS WL7 / SRAM
XI159 BL6 BLB6 VDD VSS WL7 / SRAM
XI161 BL2 BLB2 VDD VSS WL7 / SRAM
XI178 BL2 BLB2 VDD VSS WL6 / SRAM
XI189 BL7 BLB7 VDD VSS WL4 / SRAM
XI175 BL5 BLB5 VDD VSS WL5 / SRAM
XI181 BL6 BLB6 VDD VSS WL4 / SRAM
XI180 BL0 BLB0 VDD VSS WL5 / SRAM
XI179 BL6 BLB6 VDD VSS WL5 / SRAM
XI185 BL4 BLB4 VDD VSS WL4 / SRAM
XI184 BL4 BLB4 VDD VSS WL7 / SRAM
XI188 BL7 BLB7 VDD VSS WL5 / SRAM
XI187 BL0 BLB0 VDD VSS WL4 / SRAM
XI186 BL4 BLB4 VDD VSS WL6 / SRAM
XI193 BL7 BLB7 VDD VSS WL2 / SRAM
XI194 BL7 BLB7 VDD VSS WL1 / SRAM
XI198 BL3 BLB3 VDD VSS WL7 / SRAM
XI202 BL3 BLB3 VDD VSS WL1 / SRAM
XI201 BL3 BLB3 VDD VSS WL4 / SRAM
XI200 BL3 BLB3 VDD VSS WL5 / SRAM
XI199 BL3 BLB3 VDD VSS WL3 / SRAM
XI126 BL2 BLB2 VDD VSS WL0 / SRAM
XI125 BL1 BLB1 VDD VSS WL0 / SRAM
XI215 BL7 BLB7 PRE VDD VSS / Pre_charge_CKT
XI214 BL6 BLB6 PRE VDD VSS / Pre_charge_CKT
XI213 BL5 BLB5 PRE VDD VSS / Pre_charge_CKT
XI212 BL4 BLB4 PRE VDD VSS / Pre_charge_CKT
XI211 BL3 BLB3 PRE VDD VSS / Pre_charge_CKT
XI210 BL2 BLB2 PRE VDD VSS / Pre_charge_CKT
XI209 BL1 BLB1 PRE VDD VSS / Pre_charge_CKT
XI204 BL0 BLB0 PRE VDD VSS / Pre_charge_CKT
XI218 A B C EN VSS WL0 WL1 WL2 WL3 WL4 WL5 WL6 WL7 / Decoder_3X8
XI242 net30 net29 D7 VDD VSS / Write_Driver
XI239 net26 net25 D6 VDD VSS / Write_Driver
XI238 net22 net21 D5 VDD VSS / Write_Driver
XI235 net18 net17 D4 VDD VSS / Write_Driver
XI234 net14 net13 D3 VDD VSS / Write_Driver
XI231 net10 net9 D2 VDD VSS / Write_Driver
XI230 net6 net5 D1 VDD VSS / Write_Driver
XI228 net2 net1 D0 VDD VSS / Write_Driver
.ENDS

